US07977344B2
N2-Butyl-9-[2-(2,2-dimethyltetrahydro-2H-pyran-4-yl)ethyl]-8-(methyloxy)-9H-purine-2,6-diamine
A mixture of N2-butyl-8-(methyloxy)-3H-purine-2,6-diamine trifluoroacetate, (0.2 g, 0.571 mmol) and anhydrous potassium carbonate (0.316 g, 2.284 mmol) in DMF (2.5 ml) was heated at 50° C. for 1 hour. The mixture was cooled to room temperature and 4-(2-bromoethyl)-2,2-dimethyltetrahydro-2H-pyran (0.152 g, 0.685 mmol) was added and the mixture heated at 50° C. for 18 hours. The mixture was quenched with water (2 ml) and then extracted with DCM (2×5 ml). The DCM was separated through a hydrophobic frit and evaporated by blowing down under a stream of nitrogen. DMSO:MeOH (1:1) was added to the residue and the resulting precipitate was collected by filtration, washed with methanol and dried in vacuo to give the title compound as a white solid (136 mg).

reactant | N2-butyl-8-(methyloxy)-3H-purine-2,6-diamine trifluoroacetate | 0.571 mmol, 0.2 g | FC(C(=O)O)(F)F.C(CCC)NC1=NC(=C2N=C(N=C2N1)OC)N
reactant | potassium carbonate | 2.284 mmol, 0.316 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(2-bromoethyl)-2,2-dimethyltetrahydro-2H-pyran | 0.685 mmol, 0.152 g | BrCCC1CC(OCC1)(C)C | C9H17BrO
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | N2-Butyl-9-[2-(2,2-dimethyltetrahydro-2H-pyran-4-yl)ethyl]-8-(methyloxy)-9H-purine-2,6-diamine | 136 mg | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CCC1CC(OCC1)(C)C)OC)N | C19H32N6O2
